US08466181B2
2-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-5-trifluoromethyl-pyridine
A mixture of 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole (100 mg, 0.411 mmol), 2-chloro-5(trifluoromethyl)pyridine (75 mg, 0.411 mmol) and potassium carbonate (114 mg, 0.82 mmol) in DMF (2.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 48 h. After cooling to room temperature the mixture was poured into water and the solid that formed was filtered off and purified by chromatography (silica, 0 to 100% ethyl acetate in heptane) to afford the title compound (98 mg, 60%) as a white solid. MS: m/e=389.2 [M+H]+.

reactant | 1-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-[1,2,3]triazole | 0.411 mmol, 100 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CNC1)C | C12H10FN5
reactant | 2-chloro-5(trifluoromethyl)pyridine | 0.411 mmol, 75 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | potassium carbonate | 0.82 mmol, 114 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-{4-[3-(4-Fluoro-phenyl)-5-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-5-trifluoromethyl-pyridine | 98 mg, 60% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C=C1)C(F)(F)F)C | C18H12F4N6
